US04450166
167 ml of a solution of 25% by weight of triisobutyl aluminum in toluene were added with stirring over 20 minutes at 8° to 10° C. to a mixture of 37.4 g of 2-amino-thiazoline and 800 ml of methylene chlorideand the mixture was stirred at 8° C. for 30 minutes. 15.89 g of 3-carbethoxy-4-hydroxy-quinoline were added to the mixture which was then stirred for 30 minutes and then refluxed for 16 hours. The mixture was evaporated to dryness under reduced pressure and the residue was taken up in 1 liter of N aqueous hydrochloric acid. The solution was filtered and the filtrate was iced for 16 hours and was filtered. The product was washed with water and the filtrate was made alkaline with sodium carbonate. The mixture was filtered and the product was washed with water and dried to obtain 11.7 g of N-(4,5-dihydro-thiazol-2-yl)-4-hydroxy-3-quinoline-carboxamide.

reactant | triisobutyl aluminum | C(C(C)C)[Al](CC(C)C)CC(C)C
reactant | 2-amino-thiazoline | 37.4 g | NC=1SCCN1 | C3H6N2S
reactant | 3-carbethoxy-4-hydroxy-quinoline | 15.89 g | C(=O)(OCC)C=1C=NC2=CC=CC=C2C1O | C12H11NO3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(4,5-dihydro-thiazol-2-yl)-4-hydroxy-3-quinoline-carboxamide | 11.7 g | S1C(=NCC1)NC(=O)C=1C=NC2=CC=CC=C2C1O | C13H11N3O2S
